US07795267B2
1-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]-2,3-dihydroquinolin-4(1H)-one
To a solution of 2,3-dihydroquinolin-4(1H)-one (75 mg, 0.51 mmol) and diisopropylethylamine (0.25 mL) in tetrahydrofuran (3 mL) was added triphosgene (0.15 g, 0.51 mmol), and the mixture was stirred at room temperature for 20 minutes. Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one (0.15 g, 0.51 mmol) was added thereto, and the resulting mixture was stirred at room temperature for 24 hours. The reaction solution was diluted with water and then extracted with ethyl acetate. The organic layer was washed with water and saturated brine, and dried over magnesium sulfate. The solid was filtered off, and the filtrate was concentrated. The residue was purified with amino silica gel column chromatography (hexane:ethyl acetate=1:1 to ethyl acetate), and then recrystallized from diisopropyl ether to obtain the title compound (25 mg, yield 10%).

reactant | 2,3-dihydroquinolin-4(1H)-one | 0.51 mmol, 75 mg | N1CCC(C2=CC=CC=C12)=O | C9H9NO
reactant | diisopropylethylamine | 0.25 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | triphosgene | 0.51 mmol, 0.15 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | Hexahydro-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-3-one | 0.51 mmol, 0.15 g | C1(=CC=CC=C1)C1(OC(N2C1CNCC2)=O)C2=CC=CC=C2 | C18H18N2O2
solvent | tetrahydrofuran | 3 mL | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | 1-[(Tetrahydro-3-oxo-1,1-diphenyl-3H-oxazolo[3,4-a]pyrazin-7(1H)-yl)carbonyl]-2,3-dihydroquinolin-4(1H)-one | 25 mg, yield 10% | O=C1OC(C2N1CCN(C2)C(=O)N2CCC(C1=CC=CC=C21)=O)(C2=CC=CC=C2)C2=CC=CC=C2 | C28H25N3O4
